US06670367B1
4,6-Dimethyl-1-methylthiopyrimidine
15 g (107 mmol) of 4,6-dimethyl-1-mercaptopyrimidine and 5.14 g of NaOH were dissolved in 175 ml of water. 12 ml (128 mmol) of dimethyl sulfate were added dropwise to this mixture at room temperature over the course of 10 minutes. After 1 hour, the aqueous phase was extracted 3 times with ether and dried over magnesium sulfate, and the solvent was distilled off. 15.9 g (97%) of crude product were isolated. 1H-NMR (270 MHz): 6.7 ppm (1H, s), 2.5 (3H, s), 2.3 (6H, s).

reactant | 4,6-dimethyl-1-mercaptopyrimidine | 107 mmol, 15 g | CC1=NCN(C(=C1)C)S | C6H10N2S
reactant | NaOH | 5.14 g | [OH-].[Na+]
reactant | dimethyl sulfate | 128 mmol, 12 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 175 ml | O | H2O
product | 4,6-Dimethyl-1-methylthiopyrimidine | 15.9 g, 97% | CC1=NCN(C(=C1)C)SC | C7H12N2S
